US05955435
Intermediate 4 (S)-[(1,1-Dimethylethoxy)carbonyl]-2-naphthylalanine
Diethylacetamidomalonate was added to a stirred solution of sodium methoxide in methanol at room temperature. A yellow solution resulted, which was heated to 42° C. and treated in several portions with 2-bromomethyl naphthalene over the course of 2 h. The opaque solution gradually became translucent, and the internal temperature increased to 68° C. Water was then added and the resulting yellow solution allowed to cool overnight. The mixture was then re-heated to 65° C. and 46-48% sodium hydroxide solution was then added over a 2 h. The mixture was then allowed to cool overnight. The mixture was adjusted to pH 9 with 6M HCl and the solution stirred at 26° C. Following a dichloromethane work-up, the N-acetyl acid was subjected to biotransformation using amino acylase at pH 8, followed by Boc protection using Boc anhydride (1.1 equiv) in methanol at 0° C. The product was isolated as a white solid.

reactant | Diethylacetamidomalonate | C(C)C(C(=O)NC(C(=O)[O-])C(=O)[O-])CC
reactant | sodium methoxide | C[O-].[Na+]
reactant | 2-bromomethyl naphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | sodium hydroxide | [OH-].[Na+]
reactant | HCl | 6M | Cl | ClH
reactant | Boc anhydride | 1.1 equiv | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | (S)-[(1,1-Dimethylethoxy)carbonyl]-2-naphthylalanine | CC(C)(OC(=O)N([C@@H](C)C(=O)O)C1=CC2=CC=CC=C2C=C1)C | C18H21NO4
